US08283353B2
4′-({4-[trans-4-(2-cyclopropyl-2-hydroxyethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
4′-({4-[trans-4-(2-Cyclopropyl-2-oxoethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.23 g) was dissolved in tetrahydrofuran (2 mL) and methanol (4 mL), sodium tetrahydroborate (0.027 g) was added at 0° C., and the mixture was stirred at 0° C. for 1 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, the solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.17 g, 72%).

reactant | 4′-({4-[trans-4-(2-Cyclopropyl-2-oxoethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.23 g | C1(CC1)C(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)=O | C33H35N5O3
reactant | sodium tetrahydroborate | 0.027 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 4 mL | CO | CH4O
product | 4′-({4-[trans-4-(2-cyclopropyl-2-hydroxyethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.17 g, 72% | C1(CC1)C(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)O | C33H37N5O3
